US05332717
4 drops of concentrated sulfuric acid are added to a solution of 2.5 g of 3,7-dihydroxyphthalide (in the form of the crude product--see Examples 105 and 106) in 70 ml of methanol and, after the subsequent addition of 3 Å molecular sieve, the mixture is left to stand for approximately 16 hours. The mixture is then filtered and the filtrate is concentrated by evaporation. The crude product, 3 g of yellow oil, is purified by chromatography (flash-chromatography) on silica gel using ethyl acetate/n-hexane (3:7) to yield 1.9 g (70% of the theoretical yield) of 7-hydroxy-3-methoxy-phthalide in the form of reddish crystals, m.p. 77°-79° C. (after crystallisation from diethyl ether/n-hexane); IR spectrum (CHCl3): C=O 1745 cm-1.

reactant | 3,7-dihydroxyphthalide | 2.5 g | OC1OC(=O)C2=C(C=CC=C12)O | C8H6O4
reactant | methanol | 70 ml | CO | CH4O
catalyst | sulfuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
product | 7-hydroxy-3-methoxy-phthalide | OC=1C=CC=C2C(OC(=O)C12)OC | C9H8O4
